US04849424
In anhydrous tetrahydrofuran, 159 mg of 2-chloro-4-methoxy-6-methylpyrimidine was substituted with 68 mg of pyrazole. The reaction mixture was treated according to the procedure of Example 5 to yield 103 mg of 4-methoxy-6-methyl-2-(1-pyrazolyl)pyrimidine, and recrystallized from n-hexane to give a compound having a melting point of 52.5°-53° C.

reactant | 2-chloro-4-methoxy-6-methylpyrimidine | 159 mg | ClC1=NC(=CC(=N1)OC)C | C6H7ClN2O
reactant | pyrazole | 68 mg | N1N=CC=C1 | C3H4N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-methoxy-6-methyl-2-(1-pyrazolyl)pyrimidine | 103 mg | COC1=NC(=NC(=C1)C)N1N=CC=C1 | C9H10N4O
